US08383827B2
To 2-chloro-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzonitrile (217 mg, 0.824 mmol) in DMF (4 mL) were added 3-bromo-5-(1,1-dioxo-isothiazolidin-2-ylmethyl)-pyridine (200 mg, 0.687 mmol) and 2M aqueous sodium carbonate (0.687 mL, 1.374 mmol). The reaction mixture was flushed and evacuated with N2 thrice followed by the addition of PdCl2(dppf).CH2Cl2 adduct (28.0 mg, 0.034 mmol). The reaction mixture was stirred at 100° C. for 1 hour. The reaction was cooled to room temperature, diluted with ethyl acetate and washed with water thrice. The organic layer was separated, dried over sodium sulfate and concentrated in vacuo. The crude was dissolved in DMF (5 mL) and purified using Xbridge C18 eluting with a 10 to 100% ACN-water to afford 2-chloro-4-[5-(1,1-dioxo-isothiazolidin-2-ylmethyl)-pyridin-3-yl]-benzonitrile as a white solid. HRMS: (ESI) m/z 348.0575 [(M+H)+ Calcd for C16H14ClN3O2S 348.0573]. 1H NMR (400 MHz, MeOD) δ ppm 2.33-2.47 (m, 2H), 3.24-3.33 (m, 4H), 4.37 (s, 2H), 7.87 (dd, J=8.2, 1.6 Hz, 1H), 7.97 (d, J=8.1 Hz, 1H), 8.06 (d, J=1.5 Hz, 1H), 8.22 (t, J=2.1 Hz, 1H), 8.68 (d, J=2.0 Hz, 1H), 8.87 (d, J=2.3 Hz, 1H).

reactant | 2-chloro-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzonitrile | 0.824 mmol, 217 mg | ClC1=C(C#N)C=CC(=C1)B1OC(C(O1)(C)C)(C)C | C13H15BClNO2
reactant | 3-bromo-5-(1,1-dioxo-isothiazolidin-2-ylmethyl)-pyridine | 0.687 mmol, 200 mg | BrC=1C=NC=C(C1)CN1S(CCC1)(=O)=O | C9H11BrN2O2S
reactant | sodium carbonate | 1.374 mmol, 2M, 0.687 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | CH2Cl2 | 0.034 mmol, 28.0 mg | C(Cl)Cl | CH2Cl2
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-chloro-4-[5-(1,1-dioxo-isothiazolidin-2-ylmethyl)-pyridin-3-yl]-benzonitrile | ClC1=C(C#N)C=CC(=C1)C=1C=NC=C(C1)CN1S(CCC1)(=O)=O | C16H14ClN3O2S
